US07902401B2
To a solution of (2R)-2-[(tert-butoxycarbonyl)amino]-3-(difluoromethoxy)propanoic acid (197 mg, 1.0 mmol) and triethylamine (303 mg, 3 mmol) in THF (10 mL) at −78° C., isobutyl chloroformate (174 mg, 1.28 mmol) was added dropwise. After 30 minutes, benzylamine (161 mg, 1.5 mmol) was added and the reaction mixture allowed to warm up to room temperature. The mixture then was diluted with ethyl acetate and washed with water, 0.5N HCl and Brine. The organic layer was dried over magnesium sulphate, concentrated, and triturated with ether-hexanes (1:3) to give (2R)-2-(acetylamino)-N-benzyl-3-(difluoromethoxy)propanamide (48 mg, 16.7%) as a white solid. 1H NMR (300 MHz, CDCl3): δ(ppm) 7.25-7.39 (m, 5H), 6.68 (w, 1H), 6.42 (d, 1H), 6.24 (wt, 1H), 4.73 (m, 1H), 4.48 (d, 2H), 4.24 (dd, 1H), 4.01 (dd, 1H) and 2.05 (s, 3H).

reactant | (2R)-2-[(tert-butoxycarbonyl)amino]-3-(difluoromethoxy)propanoic acid | 1.0 mmol, 197 mg | C(C)(C)(C)OC(=O)N[C@@H](C(=O)O)COC(F)F | C9H15F2NO5
reactant | triethylamine | 3 mmol, 303 mg | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 1.28 mmol, 174 mg | ClC(=O)OCC(C)C | C5H9ClO2
reactant | benzylamine | 1.5 mmol, 161 mg | C(C1=CC=CC=C1)N | C7H9N
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2R)-2-(acetylamino)-N-benzyl-3-(difluoromethoxy)propanamide | 48 mg, 16.7% | C(C)(=O)N[C@@H](C(=O)NCC1=CC=CC=C1)COC(F)F | C13H16F2N2O3
